US07723376B2
50 mg of 3-[1-(2,4-dimethoxybenzyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-propionic acid (0.157 mM) was dissolved in 1 ml of trifluoroacetic acid solution. Then 0.074 ml of triethyl silane (0.465 mmol) was added thereto and the mixture was heated for 20 min at 80° C. The solvent was removed in vacuo and the remaining residue was recrystallized with mixture solution of methanol and ethylacetate to give 13 mg of 3-(2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid (g) (yield: 50%).

reactant | 3-[1-(2,4-dimethoxybenzyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-propionic acid | 0.157 mM, 50 mg | COC1=C(CN2C(C(=CCC2)CCC(=O)O)=O)C=CC(=C1)OC | C17H21NO5
reactant | triethyl silane | 0.465 mmol, 0.074 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid | 13 mg, yield: 50% | O=C1NCCC=C1CCC(=O)O | C8H11NO3
